US09340546B2
Step 1: 3-bromo-5-fluoro-4-hydrazinylpyridine
3-bromo-4-chloro-5-fluoro-pyridine (500 mg, 2.376 mmol), hydrazine (761.4 mg, 745.7 μL, 23.76 mmol), Na2CO3 (503.7 mg, 4.752 mmol) in cyclohexanol was heated at 100 C overnight. The reaction mixture was filtered on celite and loaded on a SCX column, washed with DCM/MeOH mixtures and was eluted with a 2M solution of NH3 in MeOH. The filtrate was concentrated in vacuo and the 3/1 mixture of 3-bromo-5-fluoro-4-hydrazinylpyridine and 3-bromo-4-chloro-5-hydrazinylpyridine was used in next step without further purification. MS (ES+) 205.9.

reactant | 3-bromo-4-chloro-5-fluoro-pyridine | 2.376 mmol, 500 mg | BrC=1C=NC=C(C1Cl)F | C5H2BrClFN
reactant | hydrazine | 23.76 mmol, 745.7 μL, 761.4 mg | NN | H4N2
reactant | Na2CO3 | 4.752 mmol, 503.7 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | cyclohexanol | C1(CCCCC1)O | C6H12O
product | 3-bromo-5-fluoro-4-hydrazinylpyridine | BrC=1C=NC=C(C1NN)F | C5H5BrFN3
